US04324796
2-(3-Phenylpropyl)oxirane-2-carboxylic acid
Alternatively, the compound is obtained as follows: a solution of trifluoroperacetic acid (prepared from 1.8 ml of 85% strength hydrogen peroxide, 17 g of trifluoroacetic anhydride and 15 ml of methylene chloride) is added dropwise to a boiling mixture of 9.5 g of 5-phenyl-2-methylenevaleric acid and 28 g of disodium hydrogen phosphate in 50 ml of methylene chloride. The mixture is boiled under reflux for a further 30 minutes; 150 ml of ice-water are added; *the organic phase is separated off and, after drying over sodium sulfate, is concentrated. The title compound remains as a viscous oil.

reactant | trifluoroperacetic acid | 1.8 ml, 17 g | FC(C(=O)OO)(F)F | C2HF3O3
reactant | 5-phenyl-2-methylenevaleric acid | 9.5 g | C1(=CC=CC=C1)CCCC(C(=O)O)=C | C12H14O2
reactant | disodium hydrogen phosphate | 28 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Phenylpropyl)oxirane-2-carboxylic acid | C1(=CC=CC=C1)CCCC1(OC1)C(=O)O | C12H14O3
